US05364871
A suspension of 2-(diaminomethyleneamino)-4-[2-(imino)(methoxy)methylthiazol-4-yl]thiazole (1.0 g) and sulfamide (1.36 g) in a 2-methoxyethanol (10 ml) was heated at 70° C. for 7 hours. The resulting precipitate was removed by filtration. The filtrate was chromatographed on a silica gel column eluting with ethyl acetate:methanol=3:1. Recrystallization from a mixture of N,N-dimethylformamide and water afforded 4-[2-(amino)(aminosulfonylimino)methylthiazol-4-yl]-2-(diaminomethyleneamino)thiazole (0.35 g).

reactant | 2-(diaminomethyleneamino)-4-[2-(imino)(methoxy)methylthiazol-4-yl]thiazole | 1.0 g | NC(N)=NC=1SC=C(N1)C=1NC(SC1COC)=N | C9H12N6OS2
reactant | sulfamide | 1.36 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 4-[2-(amino)(aminosulfonylimino)methylthiazol-4-yl]-2-(diaminomethyleneamino)thiazole | 0.35 g | NC=1SC(=C(N1)C=1N=C(SC1)N=C(N)N)C=NS(=O)(=O)N | C8H10N8O2S3
